US06313122B1
A. 2-Amino-4-nitro-N-(4-methoxyphenyl)benzamide
A mixture of 4-nitroisatoic anhydride (2.08 g, 10.0 mmol) and p-anisidine (1.35 g, 11.0 mmol) in N,N-dimethylformamide (10 mL) was heated at 80° C. for 2.5 h. After cooling, the reaction was poured into ice cold 3 N hydrochloric acid (60 mL). The resulting solid was filtered and washed with 1 N hydrochloric acid and water. Drying in vacuo gave 2.73 g (95%) of the title compound as a greenish yellow solid; mp 193-7° C.

reactant | 4-nitroisatoic anhydride | 10.0 mmol, 2.08 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC(N2)=O)=CC1 | C8H4N2O5
reactant | p-anisidine | 11.0 mmol, 1.35 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-Amino-4-nitro-N-(4-methoxyphenyl)benzamide | 2.73 g, 95% | NC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC(=C1)[N+](=O)[O-] | C14H13N3O4
